US07259266B2
Sodium 6-chloro-7-(4-ethylphenoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A solution of 47.6 mg (0.119 mmole) of 6-chloro-7-(4-ethylphenoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid in 1.5 mL of ethanol was treated with 1.18 mL of 0.1008N NaOH. The resultant mixture was lyophilized to provide 51 mg (quant.) of an off-white solid: 1H NMR (CD3OD/400 MHz) 1.25 (t, 3H, J=7.7 Hz), 2. 68 (q, 2H, J=7.7 Hz), 5.79 (q, 1H, J=7.2 Hz), 6.92 (d, 2H, J=8.6 Hz), 7.25 (d, 2H, J=8.6 Hz), 7.37 (m, 2H); MS (ES+) 399 (M+1, 100).

reactant | 6-chloro-7-(4-ethylphenoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.119 mmole, 47.6 mg | ClC=1C=C2C=C(C(OC2=CC1OC1=CC=C(C=C1)CC)C(F)(F)F)C(=O)O | C19H14ClF3O4
reactant | NaOH | 0.1008N, 1.18 mL | [OH-].[Na+]
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | Sodium 6-chloro-7-(4-ethylphenoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C2C=C(C(OC2=CC1OC1=CC=C(C=C1)CC)C(F)(F)F)C(=O)[O-].[Na+] | InChI=1S/C19H14ClF3O4.Na/c1-2-10-3-5-12(6-4-10)26-16-9-15-11(8-14(16)20)7-13(18(24)25)17(27-15)19(21,22)23;/h3-9,17H,2H2,1H3,(H,24,25);/q;+1/p-1
